US06455507B1
As described in General Procedure III, 5-chloro-6methylbenzimidazole (1.0 g, 6 mmol), N,O-bis(trimethylsiyl) acetamide (Aldrich, 1.3 ml, 5.2 mmol), and 1,2-dichloroethane (Aldrich Sure Seal, 300 mL) were combined and refluxed under nitrogen for 0.5 h. The solution was cooled to room temperature and trimethylsilyl triflate (Aldrich, 1.3 ml, 6.7 mmol) was added. Immediately, 2.0 g (6.3 mmol) solid 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose (beta-D-ribopyranose 1,2,3,4-tetraacetate, Aldrich, Milwaukee) was added. The solution was stirred under nitrogen at reflux overnight, then poured into 7% aqueous sodium bicarbonate and extracted with chloroform. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (5×20 cm, 230-400 mesh) eluting with a step gradient of 0.25 to 2.5% methanol in chloroform to give 0.07 g (0.16 mmol) 5-Chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole; MS (AP+): m/z (rel. intensity) 447 (1.0, M+23 (Na)) 1H NMR (DMSO-d6) δ8.36 (s,1H), 7.90 (s, 1H), 7.68 (s, 1H), 5.97-5.95 (d, 1H, J=9.1 Hz), 5.72-5.69 (m, 2H), 5.41-5.40 (m, 1H), 4.02-3.92 (m, 2H), 2.42 (s, 3H), 2.20 (s, 3H), 1.98 (s, 3H), 1.69 (s, 3H) and 0.090 g (0.21 mmol) 6-Chloro-5-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole 1H NMR (DMSO-d6) δ8.36 (s,1H), 8.06 (s, 1H), 7.60 (s, 1H), 5.99-5.96 (d, 1H, J=9.6 Hz), 5.73-5.66 (m, 2H), 5.45-5.40 (m, 1H), 4.02-3.92 (m, 2H), 2.37 (s, 3H), 2.20 (s, 3H), 1.98 (s, 3H), 1.69 (s, 3H) and 0.13 g (0.31 mmol) of a mixture of the two regioisomers (11% total yield).

reactant | 5-chloro-6methylbenzimidazole | 6 mmol, 1.0 g | ClC1=CC2=C(N=CN2)C=C1C | C8H7ClN2
reactant | acetamide | 5.2 mmol, 1.3 ml | C(C)(=O)N | C2H5NO
reactant | trimethylsilyl triflate | 6.7 mmol, 1.3 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C13H18O9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
product | 5-Chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.16 mmol, 0.07 g | ClC1=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO2)C=C1C | C19H21ClN2O7
